US07524860B2
2-(3-Ethyl-ureido)-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridine-5-carboxylic acid amide, which may be prepared as in Example 16, (200 mg, 0.62 mmol) was suspended in DMA (8 mL) and preheated to 90° C. Dimethylacetamide-dimethylacetal (0.45 mL, 3.07 mmol) was added and the solution was heated at 90° C. for 30 minutes. The reaction was allowed to cool, diluted with water (100 mL), then extracted with CH2Cl2 (3×50 mL). The combined CH2Cl2 fractions were washed with water (3×50 mL), brine (50 mL), and dried (Na2SO4). The mixture was filtered under reduced pressure. The resultant oil was dissolved in AcOH and hydrazine hydrate (0.1 mL, 1.85 mmol) was added. The mixture was heated at 90° C. for 2 h. All solvent was then removed under high vacuum and the resulting slurry suspended in sat. NaHCO3 solution (50 mL). Crude 1-ethyl-3-[5-(5-methyl-2H-[1,2,4]triazol-3-yl)-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-urea triazole) was isolated by filtration and dried. Purification by silica gel chromatography (0.5% c.NH3 in 10% MeOH/CH2Cl2 as eluant) gave the desired product. HRMS (FAB+) calcd C17H17N9O (MH+) 364.1634, found 364.1632.

reactant | 2-(3-Ethyl-ureido)-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridine-5-carboxylic acid amide | C(C)NC(NC1=NN2C(C=C(C=C2C(=O)N)C=2C=NC=CC2)=N1)=O | C15H15N7O2
reactant | Dimethylacetamide-dimethylacetal | 3.07 mmol, 0.45 mL | COC(C)(N(C)C)OC | C6H15NO2
reactant | hydrazine hydrate | 1.85 mmol, 0.1 mL | O.NN
solvent | DMA | 8 mL | CC(=O)N(C)C | C4H9NO
solvent | water | 100 mL | O | H2O
product | 1-ethyl-3-[5-(5-methyl-2H-[1,2,4]triazol-3-yl)-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-urea triazole | N1N=NC=C1.C(C)NC(=O)NC1=NN2C(C=C(C=C2C=2NN=C(N2)C)C=2C=NC=CC2)=N1 | InChI=1S/C17H17N9O.C2H3N3/c1-3-19-17(27)22-16-21-14-8-12(11-5-4-6-18-9-11)7-13(26(14)25-16)15-20-10(2)23-24-15;1-2-4-5-3-1/h4-9H,3H2,1-2H3,(H,20,23,24)(H2,19,22,25,27);1-2H,(H,3,4,5)
